US04122175
The condensation of 0.1 mol of 1-methyl-5-methoxy-2,3-dihydro-benzimidazol-2-one and 0.1 mol of 2-chloromethyl-4-benzyl-morpholine is carried out in accordance with the procedure of Example 1. 18 g of 4-benzyl-2 -(1-methyl-5-methoxy-2,3-dihydrobenzimidazol-2-on-3-yl-methyl)-morpholine hydrochloride are obtained, m.p. 175° C.

reactant | 1-methyl-5-methoxy-2,3-dihydro-benzimidazol-2-one | 0.1 mol | CN1C(NC2=C1C=CC(=C2)OC)=O | C9H10N2O2
reactant | 2-chloromethyl-4-benzyl-morpholine | 0.1 mol | ClCC1CN(CCO1)CC1=CC=CC=C1 | C12H16ClNO
product | 4-benzyl-2 -(1-methyl-5-methoxy-2,3-dihydrobenzimidazol-2-on-3-yl-methyl)-morpholine hydrochloride | 18 g | Cl.C(C1=CC=CC=C1)N1CC(OCC1)CN1C(N(C2=C1C=C(C=C2)OC)C)=O | InChI=1S/C21H25N3O3.ClH/c1-22-19-9-8-17(26-2)12-20(19)24(21(22)25)15-18-14-23(10-11-27-18)13-16-6-4-3-5-7-16;/h3-9,12,18H,10-11,13-15H2,1-2H3;1H
